US05106985
Preparation of 3-(p-Chlorophenyl)-1,1,1-trifluoro-2-propanone
A solution of p-chlorobenzyl chloride (80.5 g, 0.5 mol) in anhydrous ether (150 mL) is slowly added to a vigorously stirred slurry of magnesium turnings (12.5 g, 0.5 mol) in ether (50 mL) over 45 minutes such that the reaction mixture maintains a moderate reflux. The solution is then refluxed for 30 minutes and cooled in an ice bath. The Grignard reagent is then added to a solution of ethyl tri-fluoroacetate (71.04 g, 0.5 mol) in ether (150 mL) at -60° to -70° C. (acetone-dry ice bath) over 45 minutes. The cooling bath is removed and the reaction mixture is allowed to warm to -10° C. whereupon a solid precipitates out. The reaction mixture is cautiously decomposed with saturated NH4Cl and then acidified with 10% HCl. The ether layer is separated, washed with water and saturated NaCl and dried (MgSO4). Evaporation and vacuum distillation gives the title product as a clear liquid (52.8 g): bp 72°-74° C. (34 mm); IR (neat) 1762 cm-1 ; 1H NMR (CDCl3) δ4.00 (s, 2H, CH2), 7.15 and 7.35 (d, J=8.4 Hz, 4H, ArH); 19F NMR δ-79.1; 13C NMR; δ42.2 (CH2) 116.7 (q 1JCF =292.5 Hz, CF3), 129.1 (C-2'); 131.0 (C-3'), 132.6 (C-1'), 134.0 (C-4'), 188.5 (q, 2JCF =35.5 Hz, CO).

reactant | p-chlorobenzyl chloride | 0.5 mol, 80.5 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | magnesium | 0.5 mol, 12.5 g | [Mg] | Mg
reactant | ethyl tri-fluoroacetate | 0.5 mol, 71.04 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | acetone dry ice | CC(=O)C.C(=O)=O
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 150 mL | CCOCC | C4H10O
product | 3-(p-Chlorophenyl)-1,1,1-trifluoro-2-propanone | 52.8 g | ClC1=CC=C(C=C1)CC(C(F)(F)F)=O | C9H6ClF3O
